US20010001799A1
A suspension of 3,5-dimethylanisole (13.60 g, 100 mmol), N-bromosuccinimide (18.35 g, 100 mmol) and 2,2′-azobis(2-methylpropionitrile) in CCl4 was heated under reflux for 1 h. The succinimide was filtered off, the filtrate was concentrated and the residue was chromatographed (SiO2, CH2Cl2/hexane 1:4). There were obtained 14.61 g (68%) of 1-bromomethyl-3-methoxy-5-methyl-benzene.

reactant | 3,5-dimethylanisole | 100 mmol, 13.60 g | CC=1C=C(C=C(C1)C)OC | C9H12O
reactant | N-bromosuccinimide | 100 mmol, 18.35 g | BrN1C(CCC1=O)=O | C4H4BrNO2
reactant | 2,2′-azobis(2-methylpropionitrile) | N(=NC(C#N)(C)C)C(C#N)(C)C | C8H12N4
solvent | CCl4 | C(Cl)(Cl)(Cl)Cl | CCl4
product | 1-bromomethyl-3-methoxy-5-methyl-benzene | 14.61 g, 68% | BrCC1=CC(=CC(=C1)C)OC | C9H11BrO
